US04013666
To a suspension of 12 parts of 3,4-dihydro-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methylene]isoquinoline in 50 parts of pyridine and 5 parts of N-ethyl-N-(1-methylethyl)-2-propanamine is added a solution of 10 parts of 3,4,5-trimethoxybenzeneacetyl chloride in 45 parts of benzene. The resultant mixture is heated at the boiling point under reflux for 1 hour, then cooled and thereupon diluted with 500 parts of chloroform. The resultant solution is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation. The residue is crystallized from a mixture of ethyl acetate and ether to give (Z)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-(3,4,5-trimethoxybenzeneacetyl-1-[(3,4-dimethoxyphenyl)-methylene]isoquinoline melting at 164°-170°.

reactant | 3,4-dihydro-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methylene]isoquinoline | COC=1C=C2CCNC(C2=CC1OC)=CC1=CC(=C(C=C1)OC)OC | C20H23NO4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | N-ethyl-N-(1-methylethyl)-2-propanamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3,4,5-trimethoxybenzeneacetyl chloride | COC=1C=C(C=C(C1OC)OC)CC(=O)Cl | C11H13ClO4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,4,5-trimethoxybenzeneacetyl-1-[(3,4-dimethoxyphenyl)-methylene]isoquinoline | COC=1C=C(C=C(C1OC)OC)CC(=O)C=1NC(C2=CC=CC=C2C1)=CC1=CC(=C(C=C1)OC)OC | C29H29NO6
